US08236845B2
N-(5-Methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)-N,N-dimethylamine
To a solution of 5-methoxy-2-tetralone (10.33 g, 58.62 mmol) dissolved in CH2Cl2 (400 mL) were added dimethylamine (5.6 M in EtOH, 14 mL, 76.206 mmol) and AcOH (0.46 mL, 5.862 mmol), and the mixture was stirred for 4 h at room temperature. It was then cooled to 0° C. and NaB(OAc)3H (0.45 eq, 5.59 g, 26.379 mmol) was added over a period of 20 min. After 1 h stirring at 0° C., NaB(OAc)3H (1.0 eq, 12.42 g, 58.62 mmol) was added over a period of 30 min. The reaction mixture was warmed to room temperature and stirred for 16 h. The mixture was cooled again to 0° C., and H2O (250 mL) was added slowly. The pH of the solution was adjusted to 8.0 by adding NaHCO3 saturated aqueous solution, and the mixture was stirred at 0° C. for 15 min. The layers were separated, and the aqueous phase was extracted with CH2Cl2 (4×100 mL). All organic phases were combined, dried over anhydrous Na2SO4 and concentrated in vacuo. The residue (12.51 g) was purified by flash chromatography on silica gel (1:100:1-100:0:1 AcOEt/Hexane/Et3N) affording 8.86 g of the title compound (Rf=0.5 (AcOEt/Hexane/Et3N 10:10:2), brown colored oil, 74% yield).

reactant | 5-methoxy-2-tetralone | 58.62 mmol, 10.33 g | COC1=C2CCC(CC2=CC=C1)=O | C11H12O2
reactant | dimethylamine | 76.206 mmol, 5.6 M, 14 mL | CNC | C2H7N
reactant | AcOH | 5.862 mmol, 0.46 mL | CC(=O)O | C2H4O2
reactant | NaB(OAc)3H | 26.379 mmol, 5.59 g, 0.45 eq | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaB(OAc)3H | 58.62 mmol, 12.42 g, 1.0 eq | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 250 mL | O | H2O
product | N-(5-Methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)-N,N-dimethylamine | 8.86 g, 74% yield | COC1=C2CCC(CC2=CC=C1)N(C)C | C13H19NO
